Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
RLE redness and swelling

 
Major Surgical or Invasive Procedure:
n/a
 
History of Present Illness:
HPI: Ms. ___ is a ___ female with past medical history of 
hypothyroidism and B12 deficiency who presented to the ED on 
___ with right leg erythema and was placed in CDU / ED Obs unit 
for cellulitis. She has been treated with IV clindamycin with 
plan to transition to po on discharge but due to worsening 
cellulitis despite IV therapy decision made to transition to IV 
Vancomycin and admit to medicine for ongoing IV abx. 

She first presented yesterday (___) to the ED with chief 
complaint of R knee bee sting referred from GI clinic (after 
elective colonoscopy) with worsening  erythema and edema and 
more recently with pain and decreased ROM of R knee. She 
endorses hx of similar reaction to tick bite. Seen by ___ minute 
clinic on ___ who prescribed epipen and cephalein. She 
was also taking OTC Benadryl ___ night and yesterday. She 
otherwise denied SOB, nausea, vomiting, diarrhea, angioedema. 

In the ED, she was treated with 1L NS, 25mg IV Benadryl, 650mg 
po Tylenol, 1g IV CTX and started on IV clinda 600mg q8 and 
placed in ED Obs  unit (CDU) with plan to transition to oral 
clinda if stable in the morning.  Today (___) she was noted to 
have enlarging area of involvement beyond borders drawn 
yesterday with worsening redness and swelling. Given progression 
of infection despite IV clinda, she was started on IV vancomycin 
and admitted to medicine for ongoing IV antibiotics. 

ROS: Pertinent positives and negatives as noted in the HPI. All 
other systems were reviewed and are negative. 
 
Past Medical History:
Hypothyroidism
Vitamin B12 deficiency                       

 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization.
 
Physical Exam:
EXAM  afebriel, VSS
GENERAL: Alert and in no apparent distress
EYES: Anicteric
ENT: Ears and nose without visible erythema, masses, or trauma.  
No facial swelling. 
Lymph:  No cervical adenopathy
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation bilaterall
GI: Abdomen soft, non-distended, non-tender to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: Significant improvement in large area of erythema & warmth 
over anterior R knee. no further expansion beyond borders drawn 
on admission. Nontender. 
NEURO: Alert & oriented x3
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
Labs on Admission: 
 WBC 8.2, 77.3% PMNs
 lactate 1.5
 Hgb 15 / Hct 44.9
 Plts 226K
 INR 1.0
 K 4.5

Follow-up labs: 
 WBC 4.6, 57.5% PMNs
 Lactate-0.9
 Hgb 13.3

Glucose-89 
UreaN-8 
Creat-0.7 
Na-142 
K-4.4 
Cl-103 
HCO3-25 
AnGap-14
Albumin-4.1 
Calcium-8.5 
Phos-4.4 
Mg-2.0
 
Brief Hospital Course:
Ms. ___ is a ___ female with past medical history of 
hypothyroidism and B12 deficiency who presented with worsening 
RLE cellulitis unresponsive to IV clindamycin now s/p IV Vanc in 
the ED and admitted to ___ for further care.  

1.  RLE Cellulitis - She has full range of motion at the knee. 
The leg is nontender. In the absence of worsening pain or knee 
swelling, we will treat for incompletely treated cellulitis with 
possible allergic component.  She has no clinical evidence for 
septic joint or necrotizing fasciitis or deep venous thrombosis. 
in the last three days, she has been on cephalexin, ceftriaxone, 
clindamycin, and vancomycin. It is unclear if she has truly 
failed any of these medications, or if she has been incompletely 
treated. Given the absence of purulence, this is likely to be a
Strep infection; as such, we will add oral doxycycline to the 
regimen (which would also cover Staph, including MRSA), with the 
plan to d/c vancomcyin in the morning if she continues to 
improve. Given improvement in area of redness and swelling, IV 
Vacomycin was discontinued on ___ and she was continued on oral 
doxycycline. Given stability on this regimen by ___, she was 
discharged on oral doxycycline with plan to complete a 7 day 
course total. End date of antibitiocs: ___ pm dose. 

2. Perioral tingling and subjective facial swelling - unclear 
whether this was an allergic reaction to the doxycycline or not 
as these symptoms actually began before the doxycycline was 
started. She was initially receiving prn Benadryl for this but 
continued to have frequent episodes. Benadryl was held on ___ 
and while episodes became less frequent she did require a dose 
of hydroxyzine with good effect the night before discharge. She 
never had any shortness of breath, or angioedema, and if this is 
an allergic reaction it is a mild one. Discussed this 
extensively with patient who preferred not to try a different 
antibiotic and knows to call if her facial symptoms progress 
further or fail to improve over the next 2 days. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 75 mcg PO DAILY 
2. Cyanocobalamin 1000 mcg IM/SC ONCE A MONTH 

 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth twice a day 
Disp #*9 Capsule Refills:*0 
2.  HydrOXYzine 25 mg PO Q6H:PRN facial swelling or lip tingling 

RX *hydroxyzine HCl 25 mg 1 tab by mouth q6h prn Disp #*10 
Tablet Refills:*0 
3.  Cyanocobalamin 1000 mcg IM/SC ONCE A MONTH  
4.  Levothyroxine Sodium 75 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right leg Cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please continue taking the doxycycline (antibiotic), starting 
with a dose tonight then twice daily for the next 4 days. Last 
dose of antibiotics should be on the evening of ___. 

For your facial  symptoms including the eye puffiness, seeing 
spots and the tingling around the mouth, it is possible that 
this is a mild allergic reaction to the antibiotics as we 
discussed. For this you have been prescribed a few doses of 
Hydroxyzine (Atarax) to take as needed. Please call your PCP or 
come to the Emergency Department if you develop worsening 
swelling, tingling or any feelings of throat closing up / 
shortness of breath or other concerning symptoms. Make sure you 
stop taking the doxycycline if any of these symptoms develop. 

You have been scheduled with a follow up appointment with your 
PCP ___ on ___. If the time doesn't work for 
you please call them and reschedule. It's important that you 
check in with your PCP so she can follow up on your cellulitis 
and make sure you're not having a serious reaction to the 
medication we started you on. 

Some level of stomach upset including loose stool can be seen 
with antibiotics, but if you develop persistent and severe 
diarrhea with 3 or more loose stools per day for > 1 day, please 
call your doctor right away.  
 
Followup Instructions:
___